US04410539
A mixture of 2-bromo-6-(1-imidazolyl)acetyl-3-methylbenzo[b]thiophene (0.45 g.), 99% hydrazine hydrate (0.20 g.) and ethylene glycol (5.0 ml.) was heated on a steam bath for 2 hours and then cooled. Potassium hydroxide (0.24 g.) was added and the mixture was heated at 135° C. for 1.5 hours and then cooled and poured into water. The mixture was extracted several times with ethyl acetate and the combined extracts were washed with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform gave a small amount of impurity followed by pure product. Evaporation of the product-containing fractions gave 2-bromo-6-[2-(1-imidazolyl)ethyl]-3-methylbenzo[b]thiophene (0.40 g.) as a thick oil which was pure enough for further reaction.

reactant | 2-bromo-6-(1-imidazolyl)acetyl-3-methylbenzo[b]thiophene | 0.45 g | BrC1=C(C2=C(S1)C=C(C=C2)C(CN2C=NC=C2)=O)C | C14H11BrN2OS
reactant | hydrazine hydrate | 0.20 g | O.NN
reactant | ethylene glycol | 5.0 ml | C(CO)O | C2H6O2
reactant | Potassium hydroxide | 0.24 g | [OH-].[K+]
solvent | water | O | H2O
product | 2-bromo-6-[2-(1-imidazolyl)ethyl]-3-methylbenzo[b]thiophene | 0.40 g | BrC1=C(C2=C(S1)C=C(C=C2)CCN2C=NC=C2)C | C14H13BrN2S
